US04410509
Synthesis of Butyl Oleyl Sulfide (1)
Sodium (1.5 g, 0.05 mol) was added to n-butyl mercaptan (9.02 g, 0.10 mol, Eastman) in a dry three-necked, 250-mL, round-bottom flask equipped with drying tube, magnetic stirrer, stopper, and nitrogen inlet. The reaction mixture was cooled in an ice bath. As the reaction progressed, the mixture began to solidify, so sufficient (ca. 5 mL) mixed xylene was added to effect solution. At the end of 6 hr. evolution of hydrogen was no longer apparent. Oleyl tosylate (16.94 g, 0.04 mol) was added to the solution with stirring. The flask was packed in ice and allowed to warm over 15 hr. The reaction mixture was dissolved in ether and extracted with water, 10% NaHCO3, and saturated NaCl. The ether phase was dried over anhydrous potassium carbonate and filtered, and the ether was removed on a rotary evaporator. Vacuum distillation [165° C. (0.5 torr)-190° C. (0.65 torr)] produced an oil with a faint yellow color and an odor characteristic of mercaptans. Lithium aluminum hydride was added to the oil and it was allowed to sit overnight, then filtered, and redistilled. The product was a faintly yellow oil with a slight mercaptan odor. The yield was 6.6 g (48.4%) collected from 212° C. (2.8 torr) to 223° C. (2.7 torr): NMR δ 0.9-2.3 (m, 38 H, --CH3 and --CH2 --), 2.5 (m, 4 H, --CH2 --S), 5.3 (t, J=4.5 Hz, 2 H, olefinic); IR: 3005 cm-1 (olefinic C--H). Anal. Calcd.: C, 77.57; H, 13.02; S, 9.41. Found: C, 77.53; H, 13.02; S, 9.40.

reactant | Sodium | 0.05 mol, 1.5 g | [Na] | Na
reactant | n-butyl mercaptan | 0.10 mol, 9.02 g | C(CCC)S | C4H10S
reactant | Oleyl tosylate | 0.04 mol, 16.94 g | S(=O)(=O)(OCCCCCCCC\C=C/CCCCCCCC)C1=CC=C(C)C=C1 | C25H42O3S
reactant | Lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ether | CCOCC | C4H10O
product | Butyl Oleyl Sulfide | C(CCCCCCC\C=C/CCCCCCCC)SCCCC | C22H44S
